US07517873B2
To an ice cooled mixture of 1 g (0.0032 mole) of (rac)-1-(2-chloro-5-nitro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester (IV-67), 1.96 mL of trifluoracetic acid and 15 mL of ethyl acetate, was added 2.76 g (0.02 mole) of stannous chloride dihydrate. The mixture was stirred overnight at ambient temperature. The mixture was made basic (pH 14) by the addition of 15% sodium hydroxide solution. The mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.086 g of (rac)-1-(5-amino-2-chloro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester (V-67).

reactant | (rac)-1-(2-chloro-5-nitro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester | 0.0032 mole, 1 g | C(C)OC(=O)C1CN(CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C12H15ClN4O4
reactant | trifluoracetic acid | 1.96 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-1-(5-amino-2-chloro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester | 0.086 g | C(C)OC(=O)C1CN(CCC1)C1=NC(=NC=C1N)Cl | C12H17ClN4O2
